US03950393
19 gm of 2-acetamino-5-carbethoxy-N,N-diethyl-benzylamine were dissolved in 100 ml of ethanol, and after addition of 60 ml of concentrated hydrochloric acid the mixture was refluxed for 1 hour. Thereafter the mixture was poured over ice, made alkaline with ammonia and extracted three times with chloroform. The combined chloroform extracts were dried over sodium sulfate and evaporated in vacuo, and the residue was purified by chromatography on silicagel (elution agent: ethyl acetate); by addition of isopropanolic hydrochloric acid, 2-amino-5-carbethoxy-N,N-diethyl-benzylamine hydrochloride was obtained, which was recrystallized from ethanol and then had a melting point of 138°-142°C.

reactant | 2-acetamino-5-carbethoxy-N,N-diethyl-benzylamine | 19 gm | N(C(=O)C)C1=C(CN(CC)CC)C=C(C=C1)C(=O)OCC | C16H24N2O3
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-5-carbethoxy-N,N-diethyl-benzylamine hydrochloride | Cl.NC1=C(CN(CC)CC)C=C(C=C1)C(=O)OCC | InChI=1S/C14H22N2O2.ClH/c1-4-16(5-2)10-12-9-11(7-8-13(12)15)14(17)18-6-3;/h7-9H,4-6,10,15H2,1-3H3;1H
